US05470845
A. 2-Bromo-6-(hexyloxy)naphthalene
To a stirred solution of 4.46 g (20.0 mmol) of 6-bromo-2-naphthalenol (obtained from Aldrich Chemical Company (#B7,340-6) and used without purification), in 20 mL of DMF at room temperature under argon was added 480 mg (20 mmol) of 95% sodium hydride over the course of 15 min. The resulting light yellow solution was stirred 30 min and 3.5 mL (22 mmol) of 1-bromohexane was added. The reaction was heated to 50° C. and stirred for 60 min. The reaction was quenched with ice water, the resultings solids filtered, washed with water and dried in vacuo at 60° C. Purification of the residue by chromatography on silica gel (5×20 cm column, hexanes as elutant) gave 5.00 g, 81% yield, of title compound as a colorless oil.

reactant | 6-bromo-2-naphthalenol | 20.0 mmol, 4.46 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | sodium hydride | 20 mmol, 480 mg | [H-].[Na+]
reactant | 1-bromohexane | 22 mmol, 3.5 mL | BrCCCCCC | C6H13Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-Bromo-6-(hexyloxy)naphthalene | 81% yield | BrC1=CC2=CC=C(C=C2C=C1)OCCCCCC | C16H19BrO
